US06974817B2
(3R,6S)-1-(4-Fluoro-benzyl)-3,6-dimethyl-piperazine-2,5-dione
To a solution of (2S)-2-[(2R)-(2-tert-butoxycarbonylamino-propionyl)-(4-fluoro-benzyl)-amino]-propionic acid methyl ester (43 g, 382 mmol) in dichloromethane (120 mL) at 0° C. was added trifluoroacetic acid (60 mL). The reaction was allowed to warm to ambient temperature and stirred for 2 hours. The reaction was cooled to 0° C. and slowly quenched by addition of 3 N sodium hydroxide until basic. The resulting mixture was extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to give the title compound (22 g).

reactant | (2S)-2-[(2R)-(2-tert-butoxycarbonylamino-propionyl)-(4-fluoro-benzyl)-amino]-propionic acid methyl ester | 382 mmol, 43 g | COC([C@H](C)N(CC1=CC=C(C=C1)F)C([C@@H](C)NC(=O)OC(C)(C)C)=O)=O | C19H27FN2O5
reactant | trifluoroacetic acid | 60 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | (3R,6S)-1-(4-Fluoro-benzyl)-3,6-dimethyl-piperazine-2,5-dione | 22 g | FC1=CC=C(CN2C([C@H](NC([C@@H]2C)=O)C)=O)C=C1 | C13H15FN2O2
